US05874548
Phenylchlorosulfate 13:
A solution of phenol (17 g, 181 mmol) in dry toluene (380 ml) was stirred with sodium pieces (4.15 g, 180 mmol) in a 100° C. oil bath for 2 hours. When hydrogen formation had finished, the oil bath temperature was increased to 130° C. for two more hours. The reaction mixture was cooled to 0° C. transferred to a pressure equalising funnel and added slowly (1 h) to a cold (0° C.) solution of sulfuryl chloride (15 ml, 181 mmol) in toluene (50 ml). The reaction mixture was stirred at room temperature for 16 h, washed with H2O (3×100 ml), dried over Na2SO4 and concentrated in vacuo leading to a brown oil which was distilled under reduced pressure through a Vigreux column (70°-72° C./100 μm Hg, lit(I3a) ; 61°-65° C./50 μm Hg) to give a fraction of colourless oil containing 13 and ~10% penol (23.3 g, 67%), and a small fraction of pure I3 (1.17 g, 3%): νmax (CDCl3) 1587 (C=C). 1201 (SO3); δH (200 MHz; CDCl3) 7.34-7.57 (m, Ph); δC (50 MHz, CDCl3) 121.69 (2 CH), 123.15 (C), 128.84 (CH), 130.28 and 130.42 (2 CH); m/z (EI) 194 (M+, 14%). 192 (M+, 38), 93[(M-SO2Cl)+, 33], 65 [(M-127)+, 100].

reactant | phenol | 181 mmol, 17 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium | [Na] | Na
reactant | hydrogen | [H][H] | H2
reactant | sulfuryl chloride | 181 mmol, 15 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | toluene | 380 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | Phenylchlorosulfate | C1(=CC=CC=C1)OS(=O)(=O)Cl | C6H5ClO3S
